US05874429
Synthesis of 2-(3-chloropropyl)-3,4-dihydro-2H-1,2-benzothiazin-4-one 1,1-dioxide ethylene acetal (Compound No. 11)
To a suspension of 2.20 g (50 mmol) of 60% sodium hydride in 100 ml of DMF, a solution of 12.06 g (50 mmol) of 3,4-dihydro-2H-1,2-benzothiazin-4-one 1,1-dioxide ethylene acetal in 50 ml of DMF was added under ice cooling and stirring. The reaction mixture was stirred for 30 minutes at 0° C. and then for further one hour at room temperature. Under ice cooling, a solution of 16.95 g (150 mmol) of 1,3-dichloropropane in 50 ml of DMF was added to the reaction mixture, followed by stirring for 17 hours at room temperature. The post-treatment and purification were conducted as in Example 10, whereby 13.41 g of the title compound were obtained (yield: 84%).

reactant | sodium hydride | 50 mmol, 2.20 g | [H-].[Na+]
reactant | 3,4-dihydro-2H-1,2-benzothiazin-4-one 1,1-dioxide ethylene acetal | 50 mmol, 12.06 g | C1COC2(CNS(C3=C2C=CC=C3)(=O)=O)O1 | C10H11NO4S
reactant | 1,3-dichloropropane | 150 mmol, 16.95 g | ClCCCCl | C3H6Cl2
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(3-chloropropyl)-3,4-dihydro-2H-1,2-benzothiazin-4-one 1,1-dioxide ethylene acetal | 13.41 g, yield: 84% | C1COC2(CN(S(C3=C2C=CC=C3)(=O)=O)CCCCl)O1 | C13H16ClNO4S
